US07037932B2
a) 5-(2-Fluoro-5-methoxybenzylidene)-2-thioxo-1,3-thiazolidin-4-one
To a suspension of 2-fluoro-5-methoxybenzaldehyde (5.00 g, 32.46 mmol) and rhodanine (4.31 g, 32.46 mmol) in dry toluene (1000 mL) was added ammonium acetate (50 mg) and acetic acid (2 mL). The resulting suspension was allowed to stir at 120° C. for 12 h under Dean-Stark apparatus before being allowed to cool and filtered. Resultant solid was washed with hexane and allowed to dry in vacuo to give an orange crystalline solid (8.00 g, 91%); δH (300 MHz, CDCl3) 7.50 (1H, s, CH═C); 7.31 (1H, t, Ar), 7.20–7.11 (1H, m, Ar), 6.95–6.89 (1H, m, Ar), 3.80 (3H, s, OCH3).

reactant | 2-fluoro-5-methoxybenzaldehyde | 32.46 mmol, 5.00 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | rhodanine | 32.46 mmol, 4.31 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ammonium acetate | 50 mg | C(C)(=O)[O-].[NH4+]
product | 5-(2-Fluoro-5-methoxybenzylidene)-2-thioxo-1,3-thiazolidin-4-one | 8.00 g, 91% | FC1=C(C=C2C(NC(S2)=S)=O)C=C(C=C1)OC | C11H8FNO2S2
